US07772378B2
(11) 1-Chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(thiophen-3-yl-ethynyl)-benzyl]-benzene
The compound was obtained starting from 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(4-trifluoromethylsulfonyloxy-benzyl)-benzene and 3-ethynyl-thiophene.

reactant | 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(4-trifluoromethylsulfonyloxy-benzyl)-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C28H28ClF3O13S
reactant | 3-ethynyl-thiophene | C(#C)C1=CSC=C1 | C6H4S
product | 1-Chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(thiophen-3-yl-ethynyl)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)C#CC1=CSC=C1 | C33H31ClO10S
